US08802852B2
b) N-(2,6-diisopropylphenyl)-9-(6-azido-1-hexinyl)-perylene-3,4-dicarboxylic acid imide
A solution of 1.00 g (1.36 mmol) N-(2,6-diisopropylphenyl)-9-(6-tosyloxy-1-hexinyl)-perylene-3,4-dicarboxylic acid imide and 0.60 g (9.1 mmol) sodium azide in 144 ml DMF were stirred for 20 hours at room temperature under nitrogen atmosphere.

reactant | N-(2,6-diisopropylphenyl)-9-(6-tosyloxy-1-hexinyl)-perylene-3,4-dicarboxylic acid imide | 1.36 mmol, 1.00 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C(O)C=1C=CC=2C=3C=CC=C4C(=CC=C(C5=CC=C(C1C52)C(=O)O)C43)C#CCCCCOS(=O)(=O)C4=CC=C(C)C=C4 | C47H43NO6S
reactant | sodium azide | 9.1 mmol, 0.60 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 144 ml | CN(C)C=O | C3H7NO
product | N-(2,6-diisopropylphenyl)-9-(6-azido-1-hexinyl)-perylene-3,4-dicarboxylic acid imide | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C(O)C=1C=CC=2C=3C=CC=C4C(=CC=C(C5=CC=C(C1C52)C(=O)O)C43)C#CCCCCN=[N+]=[N-] | C40H36N4O3
